US04927949
571 parts of allylamine, 0.38 part of [Rh(NBD)2 ](+). BF4(-) (note: NBD: Norbornadiene), 1.0 part of phenothiazine and 1640 parts of triethoxysilane were charged into a sealed tube and allowed to react in an oil bath for 2 hours at 130° C. Following cooling, the product was analyzed with gas chromatography. Aminopropyltriethoxysilane was produced at a yield of 65% and moreover, the ratio of γ:β isomer was 24:1.

reactant | allylamine | C(C=C)N | C3H7N
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | triethoxysilane | C(C)O[SiH](OCC)OCC | C6H16O3Si
product | Aminopropyltriethoxysilane | yield of 65% | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
